Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10].[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.23617157906
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],0.921239801366
[C:1][C:2](=[O:3])[O:4][C:5]([H:6])[H:7]>>[C:1](=[C:2]=[O:3])[O:4][C:5]([H:6])[H:7],-2.23785311403
[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]1[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.16693709855
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:1]>>[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-6.48387852517
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.18550435071
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],-7.97507661734
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][O:12][H:13]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13],-4.23208161628
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.2097996329
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]1([H:13])[H:14]>>[H:1][C:2](=[C:3][H:4])[C:12]([O:11][C:8]([C:5]([H:6])[H:7])([H:9])[H:10])([H:13])[H:14],4.40277324665
[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.65699349437
[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.1754063242
[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.6309425702
[C:1]#[C:2][O:4][O:5].[H:3]>>[C:1]=[C:2]([H:3])[O:4][O:5],-3.67242583241
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-4.01650602809
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],-0.743923729621
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3][C:7]([H:6])[H:8].[C:4]([H:5])=[C:9]([H:10])[H:11],2.99720572714
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.19133387119
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],-1.91324718431
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.7846240175
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.051010864649999
[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[O:7][H:8]>>[C:1]#[C:2][C:3][O:7][H:8].[C:4]#[C:5][H:6],5.47856330743
[H:1][C:2]=[C:3]([H:4])[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],-0.956508883516
[O:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14],-2.83353510177
[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:8][C:9]([H:10])[H:11].[H:7]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-3.5427036613
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.18925791162
[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-1.32880855867
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[O:8],-0.198893421879
[C:5]([H:6])#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12],0.4302609886899999
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.01137669291
